US05204334
4.4 ml (0.04 mol) of ethyl acrylate are added to 6.5 g (0.04 mol) of 5-methoxy-2,3-dihydrobenzofuran-2-ylmethylamine and the reaction mixture is left to stand for 60 hours at room temperature, yielding 3-[N-(5-methoxy-2,3-dihydrobenzofuran-2-yl)methylamino]-propionic acid ethyl ester in the form of a yellowish oil.

reactant | ethyl acrylate | 0.04 mol, 4.4 ml | C(C=C)(=O)OCC | C5H8O2
reactant | 5-methoxy-2,3-dihydrobenzofuran-2-ylmethylamine | 0.04 mol, 6.5 g | COC=1C=CC2=C(CC(O2)CN)C1 | C10H13NO2
product | 3-[N-(5-methoxy-2,3-dihydrobenzofuran-2-yl)methylamino]-propionic acid ethyl ester | C(C)OC(CCNCC1OC2=C(C1)C=C(C=C2)OC)=O | C15H21NO4
